US06610707B1
Sodium hydroxide (222 mg) was added to a solution of 2-[4-(2-aminoethoxy)-phenyl]acetic acid (394 mg) (see DE-A-2250400) in 1,4-dioxane: water (1:1, by volume) (20 ml) at 0° C. The reaction mixture was stirred for 20 minutes then benzyl chloroformate (319 mg) was added to the mixture and the solution was stirred for 4 hours. Additional benzyl chloroformate (70 mg) was added to the reaction mixture and it was stirred for a further 1 hour. The solvent was removed under reduced pressure. The resulting solid was dissolved in water and washed with diethyl ether. The aqueous layer was acidified with 2N aqueous hydrochloric acid solution and the product was extracted with ethyl acetate. The organic solution was dried over magnesium sulphate and the solvent removed under reduced pressure to afford 2-[4-(2-[benzyloxycarbonylamino]ethoxy)phenyl]acetic acid (375 mg) as a solid.

reactant | Sodium hydroxide | 222 mg | [OH-].[Na+]
reactant | 2-[4-(2-aminoethoxy)-phenyl]acetic acid | 394 mg | NCCOC1=CC=C(C=C1)CC(=O)O | C10H13NO3
reactant | benzyl chloroformate | 319 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 70 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | 1,4-dioxane water | 20 ml | O1CCOCC1.O
product | 2-[4-(2-[benzyloxycarbonylamino]ethoxy)phenyl]acetic acid | 375 mg | C(C1=CC=CC=C1)OC(=O)NCCOC1=CC=C(C=C1)CC(=O)O | C18H19NO5
